US05534535
A solution of (1R, 2S, 3S, 5S)-5-(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol (500 mg, 1.26 mmole) was stirred in tert-butylamine (Aldrich, 98%, 20 mL) in a Parr bomb maintained at 148° C. (oil bath) for 48 hours. The bomb was cooled and the resulting pale yellow solution diluted with ethanol containing 1N sodium hydroxide (1.2 mL). Volatiles were evaporated in vacuo and the residue was chromatographed on silica gel. Title compound was eluted with 10% methanol-chloroform as a colorless oil. The oil was dissolved in absolute ethanol, concentrated to an oil, and triturated with water (3 mL) to give (1R, 2S, 3S, 5S)-5-[2-(tert-butylamino)-5,6-dichloro-1H-benzimidazol-1-yl]-3-(hydroxymethyl)-1,2-cyclopentanediol as white powder (303 mg, 61%), m.p.: collapses to glass at 116°-150° C.; 1H-NMR(DMSO-d6)δ: 7.63 and 7.43 (both s, 2, aromatic CH), 6.15 (s, 1, NH), 5.08 (t, J=4.3 Hz, 1, OH), 4.85 (d, J=7.4 Hz, 1, OH), 4.71 (d, J=3.8 Hz, 1, OH), 4.7-4.5 (m, 1, NCH), 4.45-4.3 (m, 1, OCH), 3.80 (m, 1, OCH), 3.7-3.4 (m, 2, OCH2), 2.2-1.85 (m, 3, CH2 and CH of cyclopentane), 1.47 (s, 9, 3 CH3); mass spectrum (CI): 388(M+1); [α]20589 -4.0°, [α]20578 -4.3°, [α]20546 -6.0°, [α]20436 -22.6°, [α]20365 -82.1° (c=0.420, methanol).

reactant | (1R, 2S, 3S, 5S)-5-(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol | 1.26 mmole, 500 mg | BrC1=NC2=C(N1[C@H]1C[C@H]([C@@H]([C@@H]1O)O)CO)C=C(C(=C2)Cl)Cl | C13H13BrCl2N2O3
reactant | tert-butylamine | 20 mL | C(C)(C)(C)N | C4H11N
solvent | ethanol | 1N, 1.2 mL | C(C)O | C2H6O
product | (1R, 2S, 3S, 5S)-5-[2-(tert-butylamino)-5,6-dichloro-1H-benzimidazol-1-yl]-3-(hydroxymethyl)-1,2-cyclopentanediol | 303 mg, 61% | C(C)(C)(C)NC1=NC2=C(N1[C@H]1C[C@H]([C@@H]([C@@H]1O)O)CO)C=C(C(=C2)Cl)Cl | C17H23Cl2N3O3
